US05972946
Preparation of N-(4-chlorophenyl)-2-(5-ethyl-6-methyl-2-phenyl-4-pyrimidinylamino)-N-methylacetamide:
The same procedures as Example 1 are repeated except that 4-chloro-5-ethyl-6-methyl-2-phenylpyrimidine and 2-amino-N-(4-chlorophenyl)-N-methylacetamide are used instead of 4-chloro-5,6-dimethyl-2-phenylpyrimidine and 2-amino-N,N-dipropylacetamide, respectively. The product thus obtained is recrystallized from isopropanol to give the desired compound, m.p. 142-143° C.

reactant | 4-chloro-5-ethyl-6-methyl-2-phenylpyrimidine | ClC1=NC(=NC(=C1CC)C)C1=CC=CC=C1 | C13H13ClN2
reactant | 2-amino-N-(4-chlorophenyl)-N-methylacetamide | NCC(=O)N(C)C1=CC=C(C=C1)Cl | C9H11ClN2O
reactant | 4-chloro-5,6-dimethyl-2-phenylpyrimidine | ClC1=NC(=NC(=C1C)C)C1=CC=CC=C1 | C12H11ClN2
reactant | 2-amino-N,N-dipropylacetamide | NCC(=O)N(CCC)CCC | C8H18N2O
product | N-(4-chlorophenyl)-2-(5-ethyl-6-methyl-2-phenyl-4-pyrimidinylamino)-N-methylacetamide | ClC1=CC=C(C=C1)N(C(CNC1=NC(=NC(=C1CC)C)C1=CC=CC=C1)=O)C | C22H23ClN4O
